US06677349B1
Using the general method of Example 245 except that chloroform was used as the solvent, 1-(3-aminopropyl)-2-(methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.53 g, 5.11 mmol) was reacted with 5-dimethylamino-1-naphthalenesulfonyl chloride (5.87 mmol) to provide 1.45 g of N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}-5-(dimethylamino)naphthalene-1-sulfonamide as a yellow solid, m.p. 210-215° C. Analysis: Calculated for C28H32N6O3S.1.50 H2O: %C, 60.09; %N, 15.02; Found: %C, 59.89; %H, 6.22; %N, 14.86.

reactant | 1-(3-aminopropyl)-2-(methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.11 mmol, 1.53 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C16H21N5O
reactant | 5-dimethylamino-1-naphthalenesulfonyl chloride | 5.87 mmol | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}-5-(dimethylamino)naphthalene-1-sulfonamide | 1.45 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNS(=O)(=O)C2=CC=CC1=C(C=CC=C21)N(C)C)CCOC | C28H32N6O3S
